US08202863B2
To a solution of potassium carbonate (1.22 mmol) and N-acetyl-3-aminomethyl-benzenesulfonamide (1.22 mmol) in EtOAc (10 mL) and water (10 mL) is added a solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid chloride (1.22 mmol) in acetate (10 mL) at 0° C., and the mixture is stirred at room temperature overnight. The mixture is acidified with 5% HCl to pH ˜2-3 and extracted with EtOAc. The organic layer is separated, washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel column chromatography eluting with EtOAc to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid 3-acetylsulfamoyl-benzylamide as a solid. MS: 429 (M+H); 1H NMR (300 MHz, CD3OD): δ 3.95-4.00 (d, 3H), 4.85 (s, 3H), 7.22-7.34 (m, H), 7.41-7.62 (m, H), 7.66-7.83 (d, 2H), 7.88-7.95 (d, H), 8.04 (s, H), 8.12-8.23 (m, H), 8.26-8.37 (d, H), 9.26-9.34 (m, 2H).

reactant | potassium carbonate | 1.22 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | N-acetyl-3-aminomethyl-benzenesulfonamide | 1.22 mmol | C(C)(=O)NS(=O)(=O)C1=CC(=CC=C1)CN | C9H12N2O3S
reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid chloride | 1.22 mmol | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)Cl | C11H6ClFN2O
reactant | HCl | Cl | ClH
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | acetate | 10 mL | C(C)(=O)[O-]
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid 3-acetylsulfamoyl-benzylamide | C(C)(=O)NS(=O)(=O)C=1C=C(CNC(=O)C=2C=NC(=NC2)C2=CC(=CC=C2)F)C=CC1 | C20H17FN4O4S
